US08754079B2
225.2 4-(4-fluoro-2-(3-hydroxycyclopentyloxy)phenylamino)-5-methylthieno[2,3-d]pyrimidine-6-carboxilic acid
Methyl 4-(4-fluoro-2-(3-hydroxycyclopentyloxy)phenylamino)-5-methylthieno[2,3-d]pyrimidine-6-carboxylate (150 mg) in methanol (2.0 ml), THF (2.0 ml) and 2M aq. sodium hydroxid (0.9 ml) was stirred at reflux for 40 min. After addition of 2 M aq. HCl (8.0 ml) the reaction mixture was concentrated in vacuo. The aqueous layer was filtered and washed with water. The crude was re-evaporated from EtOH to give the desired product.

reactant | Methyl 4-(4-fluoro-2-(3-hydroxycyclopentyloxy)phenylamino)-5-methylthieno[2,3-d]pyrimidine-6-carboxylate | 150 mg | FC1=CC(=C(C=C1)NC=1C2=C(N=CN1)SC(=C2C)C(=O)OC)OC2CC(CC2)O | C20H20FN3O4S
reactant | HCl | 2 M, 8.0 ml | Cl | ClH
solvent | methanol | 2.0 ml | CO | CH4O
solvent | THF | 2.0 ml | C1CCOC1 | C4H8O
solvent | sodium hydroxid | 2M, 0.9 ml | [OH-].[Na+]
product | 4-(4-fluoro-2-(3-hydroxycyclopentyloxy)phenylamino)-5-methylthieno[2,3-d]pyrimidine-6-carboxilic acid | FC1=CC(=C(C=C1)NC=1C2=C(N=CN1)SC(=C2C)C(=O)O)OC2CC(CC2)O | C19H18FN3O4S
